US08293903B2
A solution of methyl (1R,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-ethylcyclopent-2-ene-1-carboxylate (12.94 g, 52.3 mmol) in methanol (100 ml) was treated with 2.5N NaOH (30 ml, 75.0 mmol) and stirred at room temperature. After 15 hours more 2.5N NaOH (10 ml, 25.0 mmol) was added and the reaction was stirred for an additional four days. The methanol was removed under reduced pressure and the residue partitioned between diethyl ether and water. The layers were separated and the aqueous was acidified with 4N HCl, extracted twice with ethyl acetate, washed with brine, dried over MgSO4, and concentrated under reduced pressure to give (1R,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-ethylcyclopent-2-ene-1-carboxylic acid as a brown oil (11.83 g, 97%). 1H NMR (400 MHz, CDCl3) δ ppm 5.98-5.96 (2H), 5.73 (2H), 5.30-5.26 (1H), 2.47-2.35 (2H), 2.20 (6H), 1.82-1.77 (2H), 0.96-0.92 (3H).

reactant | methyl (1R,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-ethylcyclopent-2-ene-1-carboxylate | 52.3 mmol, 12.94 g | CC=1N(C(=CC1)C)[C@@H]1C=C[C@@](C1)(C(=O)OC)CC | C15H21NO2
reactant | NaOH | 75.0 mmol, 2.5N, 30 ml | [OH-].[Na+]
reactant | NaOH | 25.0 mmol, 2.5N, 10 ml | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | (1R,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-ethylcyclopent-2-ene-1-carboxylic acid | 11.83 g, 97% | CC=1N(C(=CC1)C)[C@@H]1C=C[C@@](C1)(C(=O)O)CC | C14H19NO2
